US07645771B2
Preparation of the 6-fluoro-1H-1,2,3-benzotriazole-7-carboxylic acid
ethyl 6-fluoro-1H-1,2,3-benzotriazole-7-carboxylate (920 mg) was heated in 6N HCl until all of the starting material disappeared. Evaporation of the HCl afforded 718 mg of a brownish solid.

reactant | ethyl 6-fluoro-1H-1,2,3-benzotriazole-7-carboxylate | 920 mg | FC=1C=CC2=C(NN=N2)C1C(=O)OCC | C9H8FN3O2
solvent | HCl | 6N | Cl | ClH
product | 6-fluoro-1H-1,2,3-benzotriazole-7-carboxylic acid | 718 mg | FC=1C=CC2=C(NN=N2)C1C(=O)O | C7H4FN3O2
